US08486970B2
To 591 mg of [({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]acetic acid were added 8 ml of DMF, 200 mg of tert-butyl hydrazinecarboxylate, 205 mg of HOBt, and 388 mg of WSC hydrochloride, followed by stirring at room temperature for 3 hours. Ethyl acetate and water were added thereto to carry out a liquid separation operation. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then evaporated under reduced pressure. 7.7 ml of dichloromethane was added thereto, followed by cooling to 0° C., and 1.2 ml of trifluoroacetic acid was added thereto, followed by stirring at room temperature for 5 hours. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) and recrystallized from ethyl acetate to obtain 417 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-(2-hydrazino-2-oxoethoxy)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white powder crystal.

reactant | [({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]acetic acid | 591 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC(=O)O)=O)C1C(CCCC1)NS(=O)(=O)C | C25H27Cl2N3O7S
reactant | tert-butyl hydrazinecarboxylate | 200 mg | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | HOBt | 205 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 388 mg | CCN=C=NCCCN(C)C.Cl
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-N-(2-hydrazino-2-oxoethoxy)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 417 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC(=O)NN)=O)C1C(CCCC1)NS(=O)(=O)C | C25H29Cl2N5O6S
